US05260285
2-Cyclopropyl-7-methyl-5-methylthio-3-[(2'-nitrobiphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine
A solution of 11.1 g (34.7 mmol) 3-cyclopropyl-3-oxo-2-[(2'-nitrobiphen-4-yl)methyl]propanenitrile and 4.0 mL (126 mmol) hydrazine in 400 mL dry ethanol was refluxed for 4 hours. The mixture was cooled to room temperature then stripped of solvent in vacuo. The resulting foam was kept under vacuum overnight (final weight 11.8 g) then was redissolved in 600 mL acetic acid along with 1 mL piperidine and 9.14 g (56.4 mmol) 1,1-bis(methylthio)but-1-en-3-one. The mixture was heated to 90° C. for 5 hours, was cooled to room temperature, was stripped of solvent in vacuo, then was stripped from toluene. The crude material was chromatographed on silica gel under medium pressure using 10% ethyl acetate in hexanes to give 2.50 g (17% yield) of the title compound as a light yellow crystalline solid. Rf 0.24 in 20% EtOAc/hexane, visualized by UV, iodine, and ammonium molybdate/ceric sulfate stain.

reactant | 3-cyclopropyl-3-oxo-2-[(2'-nitrobiphen-4-yl)methyl]propanenitrile | 34.7 mmol, 11.1 g | C1(CC1)C(C(C#N)CC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C19H16N2O3
reactant | hydrazine | 126 mmol, 4.0 mL | NN | H4N2
reactant | 1,1-bis(methylthio)but-1-en-3-one | 56.4 mmol, 9.14 g | CSC(=CC(C)=O)SC | C6H10OS2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
solvent | piperidine | 1 mL | N1CCCCC1 | C5H11N
product | 2-Cyclopropyl-7-methyl-5-methylthio-3-[(2'-nitrobiphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine | 2.50 g, 17% yield | C1(CC1)C1=NN2C(N=C(C=C2C)SC)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C24H22N4O2S
